Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Benzocaine
 
Attending: ___.
 
Chief Complaint:
PCP: ___
GI: ___

CC: ___ pain x 2 months
 
Major Surgical or Invasive Procedure:
EGD/colonoscopy

 
History of Present Illness:
HPI(4): Ms. ___ is a ___ female with a PMH of 
multinodular goiter (euthyroid), dysphonia, anxiety, and 
multiple orthopedic surgeries after an escalator accident who 
presents with two months of constant abdominal pain. She was 
referred here by her gastroenterologist, Dr. ___ expedited 
workup. 

The abdominal pain is diffuse, difficult to localize and feels 
like an gnawing pain. It is aggravated by having an empty 
stomach and sometimes wakes her up at night from sleep. 
Sometimes drinking hot tea with milk alleviates the pain. 
Tensing her abdomen does not make the pain worse. She denies 
associated nausea/vomiting and has not had any bladder or bowel 
issues. History of a cholecystectomy years ago but no other 
abdominal surgeries. Has had a lot of recent stressors including 
interpersonal issues with people at her group home and a stalled 
lawsuit over an escalator accident. 

On ___, patient called Dr. ___ at ___ with with 
persistent severe abdominal pain. Passing gas and having BMs. No 
nausea and vomiting. No fever. Patient very irritable and unable 
to provide further details of character of pain. Given severity 
they advised her to come to ED for expedited CT scan. 
However she did not want to come to ER and hung up. She did not 
want to try any medications such as tylenol/Bentyl. Per Dr. 
___, pain seemed c/w some kind of ulcer or gastritis or 
possibly  Gerd and may require egd, omeprazole and h pylori 
testing. 

ED Course: VS, PE, belly labs and CT unremarkable. GI consulted.
Admitted for expedited workup. 

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative 
 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
MULTINODULAR GOITER  -
   euthyroid, has recent benign biopsy for a nodule              

HYPERTENSION                                                    
DYSPHONIA                                                       
PSYCHIATRIC ILLNESS, ? TYPE -see ___ social service note- 
living
in group home, no primary care, in process of changing- no
records yet available  - not sure who gave her her anti anxiety
meds originally or who other than pcp is regulating

SURGICAL HISTORY
KNEE SURGERY  - bilat tkr last ___                            

CHOLECYSTECTOMY                                                 
? when                                                          
MULTIPLE ORTHOPEDIC OPERATIONS ON KNEES AND L SHOULDER        
escalator accident ___ unavailable             
 
Social History:
___
Family History:
Father died of MI and had ulcers
 
Physical Exam:
EXAM(8)
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: nondistended, tender in focal areas in mid ax line
lug and mid rectus to l and slightly below umbilicus, both 
hardly
tender when pt relaxed or tenses. Negative ___.
no lumps or masses appreciated. No rebound
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
DATA: I have reviewed the relevant labs, radiology studies,
tracings, medical records, and they are notable for: 
___ 06:15AM BLOOD WBC: 7.5 Hgb: 13.___* 
___ 06:15AM BLOOD Glucose: 98 UreaN: 20 Creat: 1.1 Na: 141
K: 5.1 Cl: 103 HCO3: 27 AnGap: 11 
___ 06:15AM BLOOD Lipase: 34 GGT: 13 
___ 06:15AM BLOOD 25VitD: 15* 
___ 06:15AM BLOOD Hpy IgG: Pending 
___ 06:20AM BLOOD Lactate: 1.0 
___ 10:00AM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.0 
Leuks:
LG* 
___ 10:00 am URINE
   URINE CULTURE (Pending): 
___ 6:15 am BLOOD CULTURE
   Blood Culture, Routine (Pending): 

# Abd CT (___):  1. Mild intrahepatic biliary dilation and 
slightly increased CBD diameters are new since ___.  No 
evidence of stones on CT however choledocholithiasis cannot be 
excluded.  Correlation with hepatic function is recommended. 2. 
No bowel obstruction or ascites. 

# EGD/colonoscopy (___): prelim read. EGD showed nodular 
inflammation of the antrum.  Mult biopsies taken.  Colonoscopy 
was negative.  
 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ F h/o goiter, anxiety and multiple 
orthopedic injuries who presents from her group home with poorly 
localized abd pain of unclear etiology x 2 mos. Pain worse when 
tensing abd at ___ clinic, concerning for abdominal wall pain.

ACUTE/ACTIVE PROBLEMS:
#Abdominal pain.
Ms. ___ was admitted with abdominal pain over the past 2 
months.  Extensive tests here were performed - including HPylori 
serologies, LFTS, and abd/pelvic CT scan were unremarkable.  The 
thought was that this most c/w gastritis.  She underwent 
EGD/colonoscopy which showed evidence of nodular inflammation of 
the antrum - c/w gastritis but could not rule out cancer.  
Multiple biopsies were taken.  
   PPI was increased to 40 mg BID and sucralfate was added to 
her regimen.  Colonoscopy was negative.  Of note, her 
symptoms/complaints were out of proportion from objective 
markers and she was noted to be sleeping well, not tachycardic, 
fully mobile, and without distress otherwise.  She was seen by 
her gastroenterologist - who will follow up with the results and 
follow up as outpt.  

#Anxiety- pt has had behavioral issues in the past and gotten 
agitated with staff. will work on getting social work involved 
to both get some history, figure out prior care, and to work 
with patient get old records from prior ___ care environment

CHRONIC/STABLE PROBLEMS:
#Anx: CLONAZEPAM - clonazepam 1 mg tablet. 1 tablet(s) by mouth 
three times a day -  (Prescribed by Other Provider)
#HTN: LISINOPRIL - lisinopril 40 mg tablet. 1 tablet(s) by mouth 
daily -  (Prescribed by Other Provider)
#GERD: OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. 1 
capsule(s) by mouth at 4 pm
#Urinary retention: OXYBUTYNIN CHLORIDE - oxybutynin chloride ER 
5 mg tablet,extended release 24 hr. 1 tablet(s) by mouth twice a 
day -  (Prescribed by Other Provider)

GENERAL/SUPPORTIVE CARE:
# Nutrition/Hydration: clears tomorrow, moviprep. 
# Functional status: can complete ADLs
# Bowel Function: miralax, moviprep
# Lines/Tubes/Drains: PIV
# Precautions: none
# VTE prophylaxis: HSQ
# Consulting Services: GI
# Code: presumed full
# Disposition: 
- Anticipate discharge to: assisted living home 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Oxybutynin 5 mg PO BID 
3. ClonazePAM 1 mg PO TID 
4. Omeprazole 20 mg PO DAILY gerd 

 
Discharge Medications:
1.  Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram/10 mL 1 ml by mouth four times a day Disp 
#*1 Bottle Refills:*2 
2.  Omeprazole 40 mg PO BID gerd 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
3.  ClonazePAM 1 mg PO TID 
RX *clonazepam 1 mg 1 tablet(s) by mouth three times a day Disp 
#*6 Tablet Refills:*0 
4.  Lisinopril 40 mg PO DAILY  
5.  Oxybutynin 5 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal pain -- gastritis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,
   As you know, you were admitted with abdominal pain.  
Extensive workup here was performed - including CT scan, blood 
tests, and endoscopy (EGD and colonoscopy).  These studies 
revealed showed gastritis which is likely to respond to the acid 
suppressant medication, Prilosec and sucralfate (which coats the 
stomach).  We anticipate that your pain will improve over time 
with this medication.  There were biopsies taken of the stomach 
which will be followed up by Dr. ___.
  Please continue to take these 2 medications until your visit 
with Dr. ___. 
    Your other medications otherwise remain unchanged.  

We wish you good health.

Your ___ team
 
Followup Instructions:
___